US06921759B2
To a 5 mL pyrex pressure vessel with a stirring bar was added 8-hydroxy-5-bromo-[1,6]naphthyridine-7-carboxylic acid 2-methylsulfanylbenzylamide (0.22 g, 0.54 mmol), thiophenol (0.181 g, 1.63 mmol) and triethylamine (0.557 mL, 4.00 mmol). The vessel was sealed under nitrogen and the stirred mixture heated in a 135° C. oil bath for 24 h. The cooled reaction mixture was concentrated in vacuo and the residue was chromatographed by reverse phase HPLC using water/acetonitrile as eluant to give 8-hydroxy-5-phenylsulfanyl-[1,6]naphthyridine-7-carboxylic acid 2-methylsulfanylbenzylamide as a solid.

reactant | 8-hydroxy-5-bromo-[1,6]naphthyridine-7-carboxylic acid 2-methylsulfanylbenzylamide | 0.54 mmol, 0.22 g | CSC1=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2O)Br)C=CC=C1 | C17H14BrN3O2S
reactant | thiophenol | 1.63 mmol, 0.181 g | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 4.00 mmol, 0.557 mL | C(C)N(CC)CC | C6H15N
product | 8-hydroxy-5-phenylsulfanyl-[1,6]naphthyridine-7-carboxylic acid 2-methylsulfanylbenzylamide | CSC1=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2O)SC2=CC=CC=C2)C=CC=C1 | C23H19N3O2S2
